US06376490B1
5-Amino-6,7-dichloro-2,3-dimethoxyquinoxaline
6,7-Dichloro-2,3-dimethoxy-5-nitroquinoxaline (20 g, 0.066 mol) and 5% w/w palladium-on-carbon (50% wet) (1.2 g) were suspended in a mixture of tetrahydrofuran (0.12 L) and ethyl acetate (0.12 L). The mixture was hydrogenated at 60° C. and 414 kPa (60 psi) for 22 hours, cooled, diluted with dichloromethane (0.48 L) and the catalyst removed by filtration through celite (trade mark) filter aid. The solution was concentrated under reduced pressure with the gradual addition of toluene. The mixture was then filtered and the solid was washed with toluene (20 ml) to give the title compound as a brown solid (14.2 g, 78%), m.p. 182-4° C.

reactant | 6,7-Dichloro-2,3-dimethoxy-5-nitroquinoxaline | 0.066 mol, 20 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)[N+](=O)[O-] | C10H7Cl2N3O4
solvent | tetrahydrofuran | 0.12 L | O1CCCC1 | C4H8O
solvent | ethyl acetate | 0.12 L | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 0.48 L | ClCCl | CH2Cl2
catalyst | palladium-on-carbon | 1.2 g | [Pd] | Pd
product | 5-Amino-6,7-dichloro-2,3-dimethoxyquinoxaline | 14.2 g, 78% | NC1=C2N=C(C(=NC2=CC(=C1Cl)Cl)OC)OC | C10H9Cl2N3O2
